US07863283B2
6-Bromo-7-methoxy-3H-quinazolin-4-one
2-Amino-5-bromo-4-methoxybenzoic acid (1.56 g, 6.34 mmol) is dissolved in methanol (15 ml), treated with piperidine (0.063 ml, 0.63 mmol) and 1,3,5-triazine (772 mg, 9.5 mmol) and refluxed for one hour. After cooling to room temperature, the resulting crystals are filtered off with suction and washed with methanol. The desired product is obtained in 63% yield (1.01 g).

reactant | 2-Amino-5-bromo-4-methoxybenzoic acid | 6.34 mmol, 1.56 g | NC1=C(C(=O)O)C=C(C(=C1)OC)Br | C8H8BrNO3
reactant | piperidine | 0.63 mmol, 0.063 ml | N1CCCCC1 | C5H11N
reactant | 1,3,5-triazine | 9.5 mmol, 772 mg | N1=CN=CN=C1 | C3H3N3
solvent | methanol | 15 ml | CO | CH4O
product | 6-Bromo-7-methoxy-3H-quinazolin-4-one | 63% yield | BrC=1C=C2C(NC=NC2=CC1OC)=O | C9H7BrN2O2
